* source B1
R_R3         N02132 N02615  10k TC=0,0 
R_R4         N02136 N02132  1k TC=0,0 
R_R5         N02154 N02136  2k TC=0,0 
R_R9         N02132 N02154  6k TC=0,0 
R_R6         N02615 N02154  6k TC=0,0 
R_R2         N02615 N03275  2k TC=0,0 
R_R10         N02154 N03275  6k TC=0,0 
R_R7         0 N02154  9k TC=0,0 
R_R8         0 N03275  4k TC=0,0 
R_R1         N03275 N02290  2k TC=0,0 
I_I1         0 N02290 DC 18mAdc  
